US06747025B1
Preparation of Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one
A mixture of oxindole (137 mg, 1.03 mmol), pyrrole-2-carboxaldehyde (115.1 mg, 1.21 mmol) and piperidine (40 μL, 0.404 mmol) in 2.0 mL MeOH was heated at reflux for 3 h. The mixture was cooled in an ice bath and the solid which formed was collected by filtration to give the title compounds (208 mg, 96%) as a yellow solid.

reactant | oxindole | 1.03 mmol, 137 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | pyrrole-2-carboxaldehyde | 1.21 mmol, 115.1 mg | N1C(=CC=C1)C=O | C5H5NO
reactant | piperidine | 0.404 mmol, 40 μL | N1CCCCC1 | C5H11N
solvent | MeOH | 2.0 mL | CO | CH4O
product | Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 208 mg, 96% | N1C(=CC=C1)\C=C\1/C(NC2=CC=CC=C12)=O | C13H10N2O
